US06197975B1
Step 3.2G N-[4-(4-{2-[2-(3,5-dimethylphenyl)-5-(5-phenyloxazol-2-ylamino)-1H-indol-3-yl]ethylamino}butyl)phenyl]-methanesulfonamide
To a solution of {2-[2-(3,5-dimethylphenyl)-5-(5-phenyloxazol-2-ylamino)-1H-indol-3-yl]-ethyl}-[4-(4-methanesulfonylaminophenyl)butyl]-carbamic acid tert-butyl ester (10 mg in 0.80 mL methylene chloride) at 0° C. was added 0.050 mL anisole followed by 0.20 mL trifluoroacetic acid and the mixture stirred at 0° C. After 3 hours, the mixture was concentrated in vacuo and the residual acid removed by azeotrope with toluene. Purification of the concentrate by flash chromatography on silica gel (methylene chloride:methanol:ammonium hydroxide, 90:7:1) gave the title compound (8 mg). m/e 648 (M+H)

reactant | {2-[2-(3,5-dimethylphenyl)-5-(5-phenyloxazol-2-ylamino)-1H-indol-3-yl]-ethyl}-[4-(4-methanesulfonylaminophenyl)butyl]-carbamic acid tert-butyl ester | 0.80 mL, 10 mg | C(C)(C)(C)OC(N(CCCCC1=CC=C(C=C1)NS(=O)(=O)C)CCC1=C(NC2=CC=C(C=C12)NC=1OC(=CN1)C1=CC=CC=C1)C1=CC(=CC(=C1)C)C)=O | C43H49N5O5S
reactant | anisole | 0.050 mL | C1(=CC=CC=C1)OC | C7H8O
reactant | trifluoroacetic acid | 0.20 mL | FC(C(=O)O)(F)F | C2HF3O2
product | N-[4-(4-{2-[2-(3,5-dimethylphenyl)-5-(5-phenyloxazol-2-ylamino)-1H-indol-3-yl]ethylamino}butyl)phenyl]-methanesulfonamide | 8 mg | CC=1C=C(C=C(C1)C)C=1NC2=CC=C(C=C2C1CCNCCCCC1=CC=C(C=C1)NS(=O)(=O)C)NC=1OC(=CN1)C1=CC=CC=C1 | C38H41N5O3S
